US04051173
2.3 g. of sodium are dissolved in 170 ml. of absolute isopropanol, 12.85 g. of p-chlorophenol are introduced, 13.9 g. of 2-bromo-propanol are added dropwise and the mixture is boiled for 20 hours. The mixture is evaporated and worked up using water and ether to give 2-(4-chlorophenoxy)-propanol.

reactant | sodium | [Na] | Na
reactant | p-chlorophenol | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | 2-bromo-propanol | BrC(CO)C | C3H7BrO
solvent | isopropanol | C(C)(C)O | C3H8O
product | 2-(4-chlorophenoxy)-propanol | ClC1=CC=C(OC(CO)C)C=C1 | C9H11ClO2
